US05994353
N-Ethyl-5-bromo-2-(cyclopropylmethoxy)benzylamine
1-Methyl-2-pyrrolidinone (90 ml) (NMP) was added to anhydrous potassium carbonate (27.6 g, 0.2 mol) under argon. To the stirred mixture was added in portions 5-bromosalicylaldehyde (20.1 ml, 0.1 mol) and the mixture stirred for 10 minutes. Bromomethylcyclopropane (1 4.4 ml, 0.1 5 mol) was dissolved in NMP (10 ml) and added dropwise over 15 minutes below 30° C. The reaction temperature was increased to 35-40° C. for 3 hours. 70° C. for 1 hour and then cooled to 35° C. Ethylamine hydrochloride (13.85 g, 0.17 mol) was dissolved in methanol (60 ml), and added quickly to the mixture which was then heated at 35-40° C. for 3 hours and stirred overnight (allowing it to cool to ambient temperature). The reaction mixture was then cooled in ice. Sodium borohydride (5.3 g, 0.14 mol) was dissolved in NMP (58 ml) and added dropwise [effervescence and exotherm to 15° C] and the mixture heated to 40-45° C. for 2 hours. The reaction mixture was then cooled in ice. 2N Hydrochloric acid (250 mls) was added dropwise keeping the temperature below 30° C. The mixture was transferred to a separating funnel and extracted with ethyl acetate (×2). The combined organic layers were washed with 20% brine/water (×3) and brine (×1). dried over Na2SO4, filtered and evaporated. The residue was dissolved in ethyl acetate (100 ml) and cooled in ice. Hydrogen chloride gas was then bubbled through the stirred solution. The title compound as the hydrochloride salt precipitated and was filtered off, washed with ethyl acetate (×2) and dried under high vacuum (12.6 g, 28.5%).

reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromosalicylaldehyde | 0.1 mol, 20.1 ml | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | Bromomethylcyclopropane | 5 mol, 4.4 ml | BrCC1CC1 | C4H7Br
reactant | Ethylamine hydrochloride | 0.17 mol, 13.85 g | Cl.C(C)N
reactant | Sodium borohydride | 0.14 mol, 5.3 g | [BH4-].[Na+]
reactant | Hydrochloric acid | 2N, 250 mls | Cl | ClH
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
solvent | methanol | 60 ml | CO | CH4O
solvent | NMP | 58 ml | CN1CCCC1=O | C5H9NO
solvent | 1-Methyl-2-pyrrolidinone | 90 ml | CN1C(CCC1)=O | C5H9NO
product | N-Ethyl-5-bromo-2-(cyclopropylmethoxy)benzylamine | C(C)NCC1=C(C=CC(=C1)Br)OCC1CC1 | C13H18BrNO
